US03957851
1-Phenyl-2-acetoxy-cyclohex-3-ene-1-carboxylic-acid-ethyl-ester
1 mole (170 g) of ethyl atropate, 210 g of crotonaldehyde, 150 g of anhydrous sodium acetate and 0.6 l of acetanhydride are heated to boiling for 6 h. while stirring. Subsequently the main amount of the liquid phase is distilled off under vacuum, and the residue is extracted with 1 liter of hot ligroin. The residue of the ligroin phase is distilled. The product -- although being pure according to gas chromatography -- distills in a wide boiling range: b.p.0,1 130°-165°C. Yield: 105 g. It crystallizes when allowed to stand. M.P. 72°-73°C (from petroleum ether).

reactant | ethyl atropate | 1 mole, 170 g | C(C(=C)C1=CC=CC=C1)(=O)OCC | C11H12O2
reactant | crotonaldehyde | 210 g | C(\C=C\C)=O | C4H6O
reactant | sodium acetate | 150 g | C(C)(=O)[O-].[Na+]
reactant | acetanhydride | 0.6 l | CC(=O)OC(=O)C | C4H6O3
product | 1-Phenyl-2-acetoxy-cyclohex-3-ene-1-carboxylic-acid-ethyl-ester | C(C)OC(=O)C1(C(C=CCC1)OC(C)=O)C1=CC=CC=C1 | C17H20O4
